* FILE: MMI_INVA.sp


* SPICE netlist for "MMI_INVA" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_INVA in out 
M_0 out in vdd vdd p W='0.92*1u' L=lp_min ad='areap(0.92,sdd)' 
+ as='areap(0.92,sdd)' pd='perip(0.92,sdd)' ps='perip(0.92,sdd)'
M_1_1 out in gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)'
*.ENDS	$ MMI_INVA

