* FILE: MMI_INVB.sp


* SPICE netlist for "MMI_INVB" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_INVB in out 
M_0 out in vdd vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)'
M_1_1 out in gnd gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)'
*.ENDS	$ MMI_INVB

