* FILE: MMI_INVE.sp


* SPICE netlist for "MMI_INVE" (generated by MMI_SUE4.2.1)

*.SUBCKT MMI_INVE in out 
M_0 out in gnd gnd n W='7.36*1u' L=ln_min ad='arean(7.36,sdd)' 
+ as='arean(7.36,sdd)' pd='perin(7.36,sdd)' ps='perin(7.36,sdd)'
M_1_1 out in vdd vdd p W='14.72*1u' L=lp_min ad='areap(14.72,sdd)' 
+ as='areap(14.72,sdd)' pd='perip(14.72,sdd)' ps='perip(14.72,sdd)'
*.ENDS	$ MMI_INVE

